US07585977B2
Trifluoro-methanesulfonic Acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester
Cool dichloromethane (290 mL), triethylamine (3.08 g, 30.4 mmol) and 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalene-2-ol (9.2 g, 23.4 g) to −50° C. and add trifluoromethanesulfonic acid anhydride (7.26 g, 25.7 mmol). Stir the resulting mixture at −50° C. for 2 hours then allow the mixture to warm to ambient temperature before stirring an additional hour. Add brine (150 mL) and separate the organics. Wash the organics with NaHCO3 then dry before concentrating to a residue. Crystallized the residue with ethyl ether—hexanes to provide 11.2 g of the title compound (90.9%).

reactant | triethylamine | 30.4 mmol, 3.08 g | C(C)N(CC)CC | C6H15N
reactant | 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalene-2-ol | 9.2 g | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)O | C24H27NO4
reactant | trifluoromethanesulfonic acid anhydride | 25.7 mmol, 7.26 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 290 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic Acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 11.2 g, 90.9% | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H26F3NO6S
